US09359375B2
A solution of tert-butyl 1-carbamoylcyclopentylcarbamate (305 mg, 1.33 mmol) in 4N HCl in dioxane (5 mL) and aq. 6N HCl (3 mL) was stirred at room temperature for 3 h. It was then concentrated in vacuo to give 1-aminocyclopentanecarboxamide hydrochloride as a solid (214 mg).

reactant | tert-butyl 1-carbamoylcyclopentylcarbamate | 1.33 mmol, 305 mg | C(N)(=O)C1(CCCC1)NC(OC(C)(C)C)=O | C11H20N2O3
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 6N, 3 mL | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-aminocyclopentanecarboxamide hydrochloride | 214 mg | Cl.NC1(CCCC1)C(=O)N | InChI=1S/C6H12N2O.ClH/c7-5(9)6(8)3-1-2-4-6;/h1-4,8H2,(H2,7,9);1H
